US04943515
imidazo[4,5-b]quinoxaline nucleus:
1,3-diethylimidazo[4,5-b]quinoxaline and 6 chloro-1,3-diallylimidazo[4,5-b]quinoxaline;

reactant | 1,3-diethylimidazo[4,5-b]quinoxaline | C(C)N1CN(C=2C1=NC1=CC=CC=C1N2)CC | C13H16N4
reactant | chloro-1,3-diallylimidazo[4,5-b]quinoxaline | ClC1N(C=2C(=NC3=CC=CC=C3N2)N1CC=C)CC=C | C15H15ClN4
product | imidazo[4,5-b]quinoxaline | N1=CN=C2C1=NC1=CC=CC=C1N2 | C9H6N4
